US08383093B1
Synthesis of Rotigotine-3-Azidopropionate
In a 50 mL round bottom flask, rotigotine (500 mg, 1.56 mmol, 1 equiv.), 3-azidopropionic acid (447 mg, 3.73 mmol, 2.4 equiv.—in 5 mL DCM), and pyridine (302 μL, 3.73 mmol, 2.4 equiv.) were dissolved in 50 mL anhydrous DCM and allowed to stir under argon. The solution was cooled in an ice-water bath for 5 min, and the bath was removed. To the solution DCC was added (778 mg, 3.73 mmol, 2.4 equiv.). The solution was allowed to stir at room temperature under argon. Following overnight reaction, reverse phase HPLC analysis of the reaction mixture showed complete conversion of free rotigotine to the ester form. The reaction mixture was filtered and the filtrate was concentrated to dryness on a rotary-evaporator. The crude product was then purified by silica gel chromatography. The crude product was dissolved in a mixed solvent of hexane-ethyl acetate (6 mL, 4:1 v/v) and then loaded onto a 300 mL silica gel column (30 mm id). The column was eluted with hexane-ethyl acetate (4:1 v/v). The fractions (10 mL each) were analyzed by TLC and reversed phase HPLC. The product fractions were pooled, evaporated by rotary-evaporation, and then dried under vacuum overnight. Yield: 292 mg.

reactant | rotigotine | 1.56 mmol, 500 mg, 1 equiv. | CCCN(CCC1=CC=CS1)[C@H]2CCC3=C(C=CC=C3O)C2 | C19H25NOS
reactant | 3-azidopropionic acid | 3.73 mmol, 5 mL, 447 mg, 2.4 equiv. | N(=[N+]=[N-])CCC(=O)O | C3H5N3O2
reactant | pyridine | 3.73 mmol, 302 μL, 2.4 equiv. | N1=CC=CC=C1 | C5H5N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | Rotigotine 3-Azidopropionate | CCCN(CCC1=CC=CS1)[C@H]2CCC3=C(C=CC=C3O)C2.N(=[N+]=[N-])CCC(=O)[O-] | InChI=1S/C19H25NOS.C3H5N3O2/c1-2-11-20(12-10-17-6-4-13-22-17)16-8-9-18-15(14-16)5-3-7-19(18)21;4-6-5-2-1-3(7)8/h3-7,13,16,21H,2,8-12,14H2,1H3;1-2H2,(H,7,8)/p-1/t16-;/m0./s1
